US09062092B2
A suspension of sodium hydride (200 mg, 5 mmol, 60% dispersion in oil) in tetrahydrofuran (6 mL) was stirred at −78° C. under nitrogen. A solution of 2-(1-hydroxy-ethyl)-tetrahydro-pyran-2-carboxylic acid methyl ester (620 mg, 3.3 mmol) in tetrahydrofuran 3 mL) was added and the reaction mixture was stirred at −78° C. for 15 minutes. A solution of N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) (2.60 g, 6.6 mmol) in tetrahydrofuran (10 mL) was added and the reaction mixture was stirred at −78° C. for 30 minutes. The reaction mixture was warmed to room temperature and then stirred at room temperature for 1 h. The reaction mixture was cooled to 5° C. and saturated ammonium chloride solution was cautiously added. The reaction mixture was extracted with diethyl ether. The organics were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 10:1 to 5:1 to afford 2-(1-trifluoromethanesulfonyloxy-ethyl)-tetrahydro-pyran-2-carboxylic acid methyl ester (2.12 g, 3.3 mmol) as an oil and as a 2:1 mixture of diastereoisomers which was used immediately in the next step. LCMS (m/z) 321.0 [M+H], Tr=2.88 min.

reactant | sodium hydride | 5 mmol, 200 mg | [H-].[Na+]
reactant | 2-(1-hydroxy-ethyl)-tetrahydro-pyran-2-carboxylic acid methyl ester | 3.3 mmol, 620 mg | COC(=O)C1(OCCCC1)C(C)O | C9H16O4
reactant | N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) | 6.6 mmol, 2.60 g | C1=CC(=NC=C1Cl)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(1-trifluoromethanesulfonyloxy-ethyl)-tetrahydro-pyran-2-carboxylic acid methyl ester | 3.3 mmol, 2.12 g | COC(=O)C1(OCCCC1)C(C)OS(=O)(=O)C(F)(F)F | C10H15F3O6S
